US08334236B2
(4) Production of (2-(5-methyl-3-isoxazolyl)amino)nicotinaldehyde
3.3 g (16 mmol) of (2-(5-methyl-3-isoxazolyl)amino-3-pyridinyl)methanol was dissolved in chloroform (60 mL), and 4.3 g (49 mmol) of manganese dioxide was added thereto. The resulting mixture was stirred for 48 hours at 60° C. The reaction mixture was filtered, and the filtrate was concentrated. Thus, 3.3 g of the title compound was obtained as an orange-colored viscous product (yield: quantitative).

reactant | (2-(5-methyl-3-isoxazolyl)amino-3-pyridinyl)methanol | 16 mmol, 3.3 g | CC1=CC(=NO1)NC1=NC=CC=C1CO | C10H11N3O2
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 49 mmol, 4.3 g | [O-2].[O-2].[Mn+4]
product | (2-(5-methyl-3-isoxazolyl)amino)nicotinaldehyde | 3.3 g | CC1=CC(=NO1)NC2=C(C=CC=N2)C=O | C10H9N3O2
